US06136831
The procedure of Example 9 was repeated using 1-(7-methylbenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione and 4-sulfamoylphenylhydrazine hydrochloride as the starting materials to obtain 4-[3-difluoromethyl-5-(7-methylbenzothiazol-2-yl)-1H-pyrazol-1-yl]benzenesulfonamide. NMR(DMSO-d6) δ: 2.54 (3H, s), 7.23 (1H, t, J=54.1 Hz), 7.34-7.57 (5H, m), 7.75-7.78 (3H, m), 7.94 (2H, d, J=8.6 Hz); mp 264-265° C. (ethyl acetate-ethanol)

reactant | 1-(7-methylbenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione | CC1=CC=CC=2N=C(SC21)C(CC(C(F)F)=O)=O | C12H9F2NO2S
reactant | 4-sulfamoylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-[3-difluoromethyl-5-(7-methylbenzothiazol-2-yl)-1H-pyrazol-1-yl]benzenesulfonamide | FC(C1=NN(C(=C1)C=1SC2=C(N1)C=CC=C2C)C2=CC=C(C=C2)S(=O)(=O)N)F | C18H14F2N4O2S2
